US06211215B1
A mixture of 2-amino-5-bromopyridine (10.0 g). 1,3-dichloroacetone (7.71 g) and 1,2-dimethoxyethane (40 ml) was stirred at room temperature for 4 hours. The precipitated crystals were collected by filtration, to which ethanol (100 ml) was added and heated under reflux. The reaction mixture was concentrated, diluted with saturated aqueous sodium bicarbonate, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduced pressure to give crystals of 6-bromo-2-chloromethylimidazo-[1,2-a]pyridine (1.48 g, 10%). Recrystallization from ethyl acetate-hexane gave colorless needles, mp 129-130° C.

reactant | 2-amino-5-bromopyridine | 10.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 1,3-dichloroacetone | 7.71 g | ClCC(=O)CCl | C3H4Cl2O
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
product | 6-bromo-2-chloromethylimidazo-[1,2-a]pyridine | 1.48 g, 10% | BrC=1C=CC=2N(C1)C=C(N2)CCl | C8H6BrClN2
